US08334308B2
V.2; 2-(2-bromophenyl)ethyl methyl ether
To a solution of commercially available 2-(2-bromophenyl)ethanol (1 eq.) in THF/DMF (4/1; 0.12M) at 0° C. was added NaH (60% dispersion in oil; 1.5 eq). The mixture was stirred for 30 min then iodomethane (2 eq.) was added. The final mixture was stirred for 12 h at room temperature, poured in saturated aqueous NH4Cl and then extracted with Et2O. The organic extract was washed with water, brine, dried over MgSO4 filtered and concentrated. Purification by column chromatography on silica gel (Combi Flash from ISCO), eluting with Hex/EtOAc 0 to 50%, afforded the desired compound as a colorless oil.

reactant | 2-(2-bromophenyl)ethanol | 1 eq. | BrC1=C(C=CC=C1)CCO | C8H9BrO
reactant | NaH | 1.5 eq | [H-].[Na+]
reactant | iodomethane | 2 eq. | IC | CH3I
solvent | THF DMF | 0.12M | C1CCOC1.CN(C)C=O
solvent | NH4Cl | [NH4+].[Cl-]
product | 2-(2-bromophenyl)ethyl methyl ether | COCCC1=C(C=CC=C1)Br | C9H11BrO
